US05047431
c) 1-(4'-Hydroxyphenyl)-2-phenyl-n-butan-1-one
25.4 G. (0.10 mole) 1-(4'-methoxyphenyl)-2-phenyl-n-butan-1-one and 34.5 g. (0.30 mole) pyridine hydrochloride are melted and refluxed at 220° C. for one hour while being agitated. The melt while still liquid is poured into ice water and the precipitate dissolved in 400 ml. ether. After washing the etheric solution with water, it is shaken out with 1 N sodium hydroxide solution. The aqueous alkaline solution is acidified with 5 N hydrochlc.ric acid and extracted with 500 ml. ether. The organic phase is washed with water and dried over sodium sulfate. The solvent is removed in vacuo and the crude product is crystallized from dilute ethanol. Obtained are colorless crystals having a melting point of 131° C.; Rf 0.45 [toluene/ethyl acetate (9/1)]; yield: 16.3 g. (68%).

reactant | 1-(4'-methoxyphenyl)-2-phenyl-n-butan-1-one | 0.10 mole | COC1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)=O | C17H18O2
reactant | pyridine hydrochloride | 0.30 mole | Cl.N1=CC=CC=C1
reactant | ether | CCOCC | C4H10O
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 1-(4'-Hydroxyphenyl)-2-phenyl-n-butan-1-one | OC1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)=O | C16H16O2
